US06916937B2
Step A: 1-(4-(S),5-(S)-Bis-benzyloxy-6-(R)-benzyloxymethyl-3-(R)-hydroxy-tetrahydro-pyran-2-(R)-yl)-3-(S)-(5-chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one: 3-(S)-VIII
To a round bottom flask containing (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one ((S)-II) (0.200 g, 0.55 mmol) was added anhydrous tetrahydrofuran (3 mL) and 95% sodium hydride (0.018 g, 0.7 mmol). The yellow solution was allowed to stir at room temperature for 30 minutes. 1,2-Anhydro-3,4,6-tri-O-benzyl-α-D-glucopyranose (prepared by the method of Halcomb and Danishefsky J. Am. Chem. Soc. 1989, 111, 6661) (0.480 g, 1.1 mmol) was then dissolved in anhydrous tetrahydrofuran (2.5 mL) and added dropwise to the reaction mixture over 15 minutes. The reaction was allowed to stir at reflux overnight. Once complete, the reaction was cooled and then poured into saturated sodium bicarbonate. The solution was extracted with ethyl acetate (3×). The organic layer was washed with brine and then dried over anhydrous sodium sulfate. The crude mixture was purified via flash chromatography (silica gel, 30% ethyl acetate in hexanes). The title product was obtained as a yellow oil (0.287 g, 65%). 1H NMR (CDCl3, 400 MHz): δ 7.79 (dd, 1H, J=1.8 Hz, 0.68 Hz), 7.45 (s, 1H), 7.39-7.20 (m, 18H), 6.69 (dd, 1H, J=7.6 Hz, 1.1 Hz), 5.43 (d, 1H, J=9.5 Hz), 4.93 (m, 3H), 4.67 (m, 1H), 4.55 (dd, 2H, J=12.3 Hz, 5.7 Hz), 4.3 (ddd, 1H, J=4.9 Hz, 4.2 Hz), 3.87 (d, 1H, J=9.3 Hz), 3.79-3.70 (m, 4H), 3.42 (s, 3H), 2.54 (d, 1H, J=4.3 Hz).

reactant | (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one | 0.55 mmol, 0.200 g | ClC=1C=CC(=C(C1)[C@@]1(C(NC2=CC(=CC=C12)C(F)(F)F)=O)F)OC | C16H10ClF4NO2
reactant | sodium hydride | 0.7 mmol, 0.018 g | [H-].[Na+]
reactant | 1,2-Anhydro-3,4,6-tri-O-benzyl-α-D-glucopyranose | C(C1=CC=CC=C1)O[C@@H]1[C@@H]2[C@H](O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)O2 | C27H28O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 1-(4-(S),5-(S)-Bis-benzyloxy-6-(R)-benzyloxymethyl-3-(R)-hydroxy-tetrahydro-pyran-2-(R)-yl)-3-(S)-(5-chloro-2-methoxy-phenyl)-3-fluoro-6-trifluoromethyl-1,3-dihydro-indol-2-one | C(C1=CC=CC=C1)O[C@H]1[C@H]([C@@H](O[C@@H]([C@@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)N1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O)O | C43H38ClF4NO7
